Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
___ ERCP
 
History of Present Illness:
___ year old gentleman with history of NIDDM2, HTN, BPH, GERD, 
cholangiocarcinoma s/p gemcitabine/cisplatin and radiation ___ 
and complicated by recurrent biliary obstruction/cholangitis 
with MDR E coli and s/p multiple ERCPs (2 metal stent still in 
place from ___ and most recently PTBD that fell out ___ 
without replacement who was admitted from home on ___ for 
fevers.

On admission to the ___ service, he had a 13% bandemia, fevers, 
nausea, and vomiting, but no abdominal pain. ERCP was consulted. 
Meropenem IV was started given history of MDR e.coli 
cholangitis. Blood cultures were obtained and have had no growth 
to date. Abdominal ultrasound was unremarkable. MRCP showed 
multifocal cholangitis and concern for partial obstruction of 
both CBD stents.
 
Past Medical History:
ONCOLOGIC HISTORY:  
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the ___, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma.  Cytology was suspicious 
for
carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
-___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
cdiff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis. C4D15 held.
- ___ completed CK. radiation and resume C5D1 Gem/Cis. Day
15 held due to low counts and post-hospitalization. 
- ___: admitted for fever, cultures negative. Stents not
entirely patent on CT but fevers resolved, ? viral. 
- ___: start of C6 with dose reduced gemcitabine to 800mg/m2
- ___: start of C7 with dose reduced gemcitabine to 
750mg/m2.
Also received on ___.
- ___: received last dose, C8D1
- ___ and ___: hospitalized for biliary sepsis s/p PTBD
___ and perc cholecystostomy tube ___
- ___: hospitalized with biliary drain obstruction,
hemobilia s/p exchange of percutaneous biliary drain tubing,
disimpaction of percutaneous biliary drain by, interventional
radiology, ERCP, hepatic capsular artery embolization
PAST MEDICAL HISTORY:
GERD
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
C.diff x3
Diabetes Mellitus diagnosed ___
 
Social History:
___
Family History:
His grandfather had a cancer of the bone. He has no other family 

history of malignancy
 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.1, HR 64, BP 120/72, O2 100% RA
GENERAL: Well appearing male, lying in bed, appears comfortable 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: Moves all extremities

DISCHARGE EXAM:
***
 
Pertinent Results:
ADMISSION LABS:

___ 03:43PM   LACTATE-1.9
___ 10:59AM URINE  HOURS-RANDOM
___ 10:59AM URINE  UHOLD-HOLD
___ 10:59AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:59AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:40AM   LACTATE-3.5*
___ 09:35AM   GLUCOSE-200* UREA N-24* CREAT-0.8 SODIUM-141 
POTASSIUM-3.2* CHLORIDE-101 TOTAL CO2-21* ANION GAP-19*
___ 09:35AM   ALT(SGPT)-40 AST(SGOT)-38 ALK PHOS-110 TOT 
BILI-0.5
___ 09:35AM   LIPASE-16
___ 09:35AM   ALBUMIN-4.0 CALCIUM-8.8 PHOSPHATE-1.3* 
MAGNESIUM-1.7
___ 09:35AM   WBC-8.4 RBC-3.79* HGB-10.9* HCT-33.0* MCV-87 
MCH-28.8 MCHC-33.0 RDW-14.5 RDWSD-45.5
___ 09:35AM   NEUTS-81* BANDS-13* LYMPHS-4* MONOS-2* EOS-0 
BASOS-0 ___ MYELOS-0 AbsNeut-7.90* AbsLymp-0.34* 
AbsMono-0.17* AbsEos-0.00* AbsBaso-0.00*
___ 09:35AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 09:35AM   PLT SMR-LOW* PLT COUNT-85*

MICROBIOLOGY:
___ Urine cx: No growth
___ Blood cx: ***
___ Blood cx: ***
___ Lyme serology: ***

IMAGING:
___ CXR: 
IMPRESSION:  
No evidence of an acute cardiopulmonary abnormality. 

___ CXR:
IMPRESSION:  
No acute cardiopulmonary abnormality.

___ RUQ U/S:
IMPRESSION:   
1. Mildly coarsened hepatic parenchyma with an atrophic left 
lobe which is not well seen. 
2. Stable splenomegaly. 

___ MRCP:
IMPRESSION:  
1. Multifocal cholangitis predominately involving segments V and 
VI.  No 
hepatic abscess. 
2. Mild progression of left intrahepatic biliary duct dilation 
with persistent atrophy of the left hepatic lobe.  Persistent 
areas of abnormal enhancement at the biliary confluence likely 
related to posttreatment inflammatory fibrosis however viable 
tumor cannot be excluded.  No new soft tissue lesion identified. 

3. Findings suspicious for partial obstruction of the stent 
draining the left bile ducts which may be causing slight 
progression of upstream left biliary duct dilation. 
4. Unchanged severe attenuation of the right and left portal 
veins.

___ ERCP:
The scout film showed 2 metak stents and surgical clips in the 
RUQ.
Two metal stents were emerging from the major papilla.
The CBD metal stent was cannulated using a biliary balloon 
preloaded with 0.025in guidewire.
There was brisk flow of contrast in the intrahepatic bile ducts.
The CBD stent was swept one time using a balloon. After balloon 
sweeps active bleeding from the CBD was noted.
Sicne the source of bleeding was from the upper CBD. The 
decision was made to terminate the procedure after suction of 
blood from the duodenum and stomach. ___ was contacted for urgent 
angiography for control of bleeding and posisble PTBD.

DISCHARGE LABS:
****  

 
Brief Hospital Course:
___ year old gentleman with history of NIDDM2, HTN, BPH, GERD, 
cholangiocarcinoma s/p gemcitabine/cisplatin and radiation ___ 
and complicated by recurrent biliary obstruction/cholangitis 
with MDR E coli and s/p multiple ERCPs (2 metal stent still in 
place from ___ and most recently PTBD that fell out ___ 
without replacement who was admitted from home on ___ for 
fevers and transferred to ___ after ERCP c/b hemobilia.

# Hemobilia: Patient developed upper CBD bleeding during ERCP 
with balloon sweep and clearance of debris from L CBD stent; 
procedure aborted and R CBD stent not interrogated. He was taken 
to recovery suite and ___ was contacted. He was transferred to 
the FICU at this time with plans for a CTA to be obtained. 
Post-procedurally, patient's hemoglobin remained stable and he 
was normotensive without tachycardia. His home atenolol was 
held. Bleeding stabilized without intervention and he did not 
require CTA.

# Fevers
# Cholangitis: Presented with fever, nausea, vomiting and MRCP 
findings of multifocal cholangitis with partial CBD stent 
obstruction. The patient was started on meopenem given his 
history of MDR E.coli. He was taken to ERCP but the procedure 
aborted before source control could be obtained due to hemobilia 
(see above). Transaminases downtrended and tbili remained 
stable. Blood cultures remained negative.  He remained afebrile 
and completed a 7-day course of meropenem without complication, 
relapse/recurrence of fever.

# Pancytopenia - anemia at baseline, stable. He has chronic 
thrombocytopenia which remained stable. He may also have an 
element of anemia of chronic disease.
Anaplasma PCR negative. Leukopenia was thought to be most likely 
reactive due to acute illness

CHRONIC ISSUES:

# Migraines: continued home atenolol, home pseudoephdedrine, 
loratadine, fluticasone spray

# BPH: continued home tamsulosin/finasteride

# NIDDM2: diet/exercise controlled. Placed on ISS while 
hospitalized

Transitional Issues:
====================

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Dronabinol 5 mg PO QHS 
3. Finasteride 5 mg PO QPM 
4. Pantoprazole 40 mg PO QPM 
5. Tamsulosin 0.4 mg PO QHS 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
7. Loratadine 10 mg PO QHS 
8. Calcium 500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Psyllium Wafer 1 WAF PO DAILY 
11. Vitamin D Dose is Unknown  PO DAILY 
12. Ascorbic Acid Dose is Unknown  PO DAILY 
13. GuaiFENesin ER 600 mg PO DAILY 
14. Clotrimazole Cream 1 Appl TP BID 
15. Pseudoephedrine 60 mg PO DAILY 

 
Discharge Medications:
1.  Atenolol 50 mg PO DAILY  
2.  Calcium 500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral DAILY  
3.  Clotrimazole Cream 1 Appl TP BID  
4.  Dronabinol 5 mg PO QHS  
5.  Finasteride 5 mg PO QPM  
6.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
7.  GuaiFENesin ER 600 mg PO DAILY  
8.  Loratadine 10 mg PO QHS  
9.  Multivitamins 1 TAB PO DAILY  
10.  Pantoprazole 40 mg PO QPM  
11.  Pseudoephedrine 60 mg PO DAILY  
12.  Psyllium Wafer 1 WAF PO DAILY  
13.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Cholangitis
Hemobilia
Pancytopenia

Secondary:
History of cholangiocarcinoma
Migraines
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came in with fevers. We concluded that you had an infection 
in your bile ducts (cholangitis). We treated you with IV 
antibiotics and the infection improved. During your ERCP 
procedure you were found to have bleeding (hemobilia). The 
bleeding fortunately stopped on its own and you did not require 
any further procedures.
 
Followup Instructions:
___